US06759429B2
Under nitrogen atmosphere, a solution of 4-(hydroxymethyl)-benzoic acid (5.00 g) in DMF (200 mL) was cooled to 0° C., and thereto was added NaH (2.76 g, 60%). The mixture was stirred at the same temperature for 10 minutes, and stirred at room temperature for 20 minutes. The mixture was cooled to 0° C., and thereto were added DMF (100 mL) and iodomethane (18.7 g), and the mixuture was stirred at room temperature for 48 hours. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (hexane/ethyl acetate=15/1) to give methyl 4-(methoxymethyl)benzoate (4.27 g, 72%).

reactant | 4-(hydroxymethyl)-benzoic acid | 5.00 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | NaH | 2.76 g | [H-].[Na+]
reactant | iodomethane | 18.7 g | IC | CH3I
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl 4-(methoxymethyl)benzoate | 4.27 g, 72% | COCC1=CC=C(C(=O)OC)C=C1 | C10H12O3
